* comparator_tb.cir - scratch
.include '{{PDK}}/libs.tech/ngspice/design.spice'
.lib '{{PDK}}/libs.tech/ngspice/sm141064.spice' {{CORNER}}
.temp {{TEMP_C}}
.include '{{NETLIST}}'
{{SIZING}}

vdd_src vdd 0 {{VDD}}
vclk clk 0 PULSE(0 {{VDD}} 5n 50p 50p 4.95n 10n)
vinp inp 0 PWL(0 1.6505 11n 1.6505 11.1n 1.6495 30n 1.6495)
vinn inn 0 PWL(0 1.6495 11n 1.6495 11.1n 1.6505 30n 1.6505)
xcmp inp inn clk outp outn vdd 0 strongarm_comparator
cloadp outp 0 10f
cloadn outn 0 10f
ediff vd 0 outp outn 1

.tran 10p 20n
.measure tran vdiff_pos FIND v(vd) AT=9.5n
.measure tran vdiff_neg FIND v(vd) AT=19.5n
.measure tran tdelay TRIG v(clk) VAL=1.4 RISE=1 TARG v(outn) VAL=1.4 FALL=1
.measure tran vreset FIND v(outn) AT=14.5n

.control
run
.endc
.end
